US07601716B2
7-(6-Chloropyridin-3-yl)-1-(2,5-dichlorobenzyl)-1,2,3,4-tetrahydropyrido[2,3-b]pyrazine
1-(2,5-Dichlorobenzyl)-7-iodo-1,2,3,4-tetrahydropyrido[2,3-b]pyrazine (115 mg) was reacted with 2-chloro-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridine as in General Procedure 4B to give the title compound as a yellow solid (54% yield). M.p.=205° C., LCMS: m/z=405.57 (M+H+), 1H-NMR (CDCl3, 400 MHz) δ 3.50 (2H, t, J=4.8 Hz), 3.67 (2H, m), 4.49 (2H, s), 5.10 (1H, bs), 6.52 (1H, s), 7.21 (1H, dd, J=8.3, 2.3 Hz), 7.29 (2H, m), 7.35 (1H, d, J=8.3 Hz), 7.55 (2H, m), 8.36 (1H, d, J=2.5 Hz).

reactant | 1-(2,5-Dichlorobenzyl)-7-iodo-1,2,3,4-tetrahydropyrido[2,3-b]pyrazine | 115 mg | ClC1=C(CN2C3=C(NCC2)N=CC(=C3)I)C=C(C=C1)Cl | C14H12Cl2IN3
reactant | 2-chloro-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridine | ClC1=NC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C11H15BClNO2
product | 7-(6-Chloropyridin-3-yl)-1-(2,5-dichlorobenzyl)-1,2,3,4-tetrahydropyrido[2,3-b]pyrazine | 54% yield | ClC1=CC=C(C=N1)C1=CC2=C(NCCN2CC2=C(C=CC(=C2)Cl)Cl)N=C1 | C19H15Cl3N4
